2181-03-01 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt admitted overnight
   - Arterial line was placed without incident
   - Lasix 20mg IV x 1 was given for fluid overload (received total 60mg
   since code)-> (net neg >2.3L)
   - FiO2 weaned from 100->50%
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2181-3-1**] 02:31 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-1**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 78 (65 - 96) bpm
   BP: 161/48(76) {161/48(76) - 161/48(76)} mmHg
   RR: 22 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             25 mL
   PO:
             TF:
   IVF:
   25 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    765 mL
   Urine:
   765 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -740 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 33
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 100%
   ABG: 7.36/56/231/37/4
   Ve: 7.5 L/min
   PaO2 / FiO2: 462
   Physical Examination
   VS: T 99.8  BP 161/48  HR 96  RR 21 100% RA
   GEN: Intubated, sedated
   HEENT: ETT in place, conjunctiva pale, PERRL
   CV: RRR; III/VI holosystolic murmur LUSB with radiation to carotids;
   diminised S1, blunted S2
   PULM: Rhonchorous BS throughout
   ABD: Hypoactive bowel sounds; soft, nontender, not distended
   EXT: 2+ pitting edema to knees bilaterally; radial, DP pulses 2+
   NEURO: sedated
   Labs / Radiology
        [image002.jpg]
                             [**2181-3-1**]  01:37 AM
   TCO2
   33
   Assessment and Plan
   68F with known aortic stenosis, COPD, recently treated pneumonia with
   dyspnea, fatigue and severe AS who developed acute SOB and hypoxia, now
   s/p intubation.
   .
   # Respiratory failure: Patient became acutely SOB on the floor.
   Differential includes CHF, COPD, infection, PE, pulmonary hemorrhage
   (given bloody secretions from ETT).  Was hypertensive on floor and has
   severe AS so ? flash pulmonary edema in setting of diastolic
   dysfunction.  COPD likely contributing as well.  PE possible given
   recent prolonged hospitalization, however was on heparin ggt so less
   likely.  Completed course of antibiotics for PNA, has been afebrile.
   CXR now improved with positive pressure.
   - Wean FiO2 as tolerated with goal O2 sat >92%
   - Cont. lasix for goal I/O -500cc
   - Cont. nebs
   - Holding heparin in setting of gross blood from ETT
   - Serial Hct, consider bronch if dropping or bloody secretions worsen.
   .
   #. Aortic stenosis: Moderate to severe as noted by TTE yesterday.
   Likely source for patient's progressive weakness, fatigue, shortness of
   breath, and lower extremity edema. Evaluated by CT surgery for possible
   AVR. Pre-op workup initiated prior to transfer.  Will likely need
   cardiac catherization, now on hold given worsening respiratory
   failure.
   - Continue to hold nitrates as patient is preload dependent
   - ACE inhibitor may be considered once renal function improves as it
   has good afterload reducing effect
   - CT surgery following, appreciate their recs
   - dental consult for pre-op clearance
   - panorex ordered, not yet read
   .
   # Hypertension
 patient hypertensive which may have contributed to
   acutely worsening heart failure and possibly flash pulmonary edema.
   Patient maintained on beta blocker and CCB as outpatient.
   -          increase BB dose
   -          cont CCB
   -          hydral with holding parameters for SBP < 140 (goal SBP
   140-160 in the setting of aortic stenosis and preload dependence)
   -          start ACE inhibitor now that Cr improved
   .
   #. Coronaries:  Had non-obstructive coronary disease on cath in [**2178**].
   Troponins elevated here to 0.14 in the setting of renal failure.
   Differential includes demand from pumping against AS and ACS. Both
   troponins and CKs flat so do not suspect acute ischemia. EKG with
   diffuse TWI, worsened in setting of respiratory distress.  Patient
   denied CP prior to intubation.
   - Continue ASA, BB, statin
   - Monitor on telemetry
   - Repeat EKG in am
   .
   #. Atrial fibrillation: Unclear if patient has had this in the past.
   Currently back in NSR.  [**Month (only) 51**] be due to acute illness - recent pneumonia,
   decompensated heart failure. Also hyperthyroid which could induce
   afib.  CHADS score 3. Was on heparin gtt on the floor. Currently rate
   controlled
   - Continue to monitor on telemetry
   - Holding heparin gtt in setting of bloody secretions, will eventually
   need to be started on coumadin
   - Cont. BB, verapamil  uptitrate as tolerated
   .
   #. DM type II: Diet controlled at home but elevated blood sugars.
   Started on [**Month (only) 3226**].
   - Cont. [**Last Name (LF) 3226**], [**First Name3 (LF) **] uptirate as needed.
   - Cont. SSI
   .
   #. Hypercholesterolemia - Cholesterol panel suboptimal. Total
   cholesterol>200 with LDL>130. Target LDL<100. Of note, patient reports
   recently being taken off of lovastatin secondary to myalgias.
   - increase simvastatin to 80 mg PO daily, check LFTS
   .
   #. Thyrotoxicosis: TSH low (0.1).  T3 48 and free T4 1.2 which is WNL.
   - Continue methimazole per home regimen
   .
   #. ARF now resolved: Unknown baseline, however Cr at OSH was 1.3 now
   improved to 1.1. Suspect that patient with some chronic baseline renal
   insufficiency. Will need to balance diuresis with maintaining
   appropriate blood pressures and not worsening hypernatremia or renal
   failure.  Diuresis may help forward flow, increasing GFR and thus
   improving kideny function.
   - Cont. to follow
   .
   #. Anemia: In [**2178**], hematocrit was in the mid-30s. Normocytic anemia
   currently. Hct stable currently. Admission anemia labs are tibc 220
   (low), b12 elevated, folate normal, ferritin 440 (elevated),
   transferrin 160 (low), iron 58 (normal). Suspect component of anemic of
   chronic disease.
   - Guiac stools
   - Cont. to trend
   - transfuse for Hct<27
   - active type and screen
   .
   #. FEN/GI: Hypernatremia
   -          Replete lytes prn
   -          Cont diuresis with free water repletion slowly for free
   water deficit
   .
   #. Ppx:
   - Heparin SC TID
   - Bowel regimen
   - PPI
   .
   #. CODE STATUS: FULL CODE, confirmed with patient . Though daughter
   says that mother would NOT like central lines to be placed.
   .
   #. CONTACT: [**First Name8 (NamePattern2) 1984**] [**Known lastname 765**] (daughter), ([**Telephone/Fax (1) 5707**] (h), ([**Telephone/Fax (1) 5708**](c)
   .
   # Access: R PICC, patient agreed to central line if needed
   .
   # Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2181-3-1**] 12:52 AM
   Arterial Line - [**2181-3-1**] 12:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-03-02 06:48:00 Physician Resident Progress Note
TITLE:
   CCU Resident Progress Note
   Chief Complaint: dyspnea
   24 Hour Events:
   - extubated patient, placing patient on CPAP as respiratory status
   doesn't look great
   - gave another 40 IV lasix
   - put in for low dose ACEinhibitor, beta blocker extra dose x1
   - increased beta blocker dose
   - added hydral
   - repeat chest x-ray demonstrated: no obvious difference from earlier
   film (will follow up on final read) with improvement on right sided
   - patient got carotid ultrasound this morning, read pending
   - put in for speech and swallow evalution for tomorrow as now s/p
   intubation
   - ordered dental consult for patient
   - patient got panorex
   - 9  pm I/O check patient -800 cc (roughly) so did not give additional
   lasix
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2181-3-1**] 10:00 AM
   Furosemide (Lasix) - [**2181-3-1**] 04:15 PM
   Heparin Sodium (Prophylaxis) - [**2181-3-2**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2181-3-2**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.8
C (96.5
   HR: 67 (59 - 77) bpm
   BP: 161/48(76) {0/0(0) - 0/0(0)} mmHg
   RR: 16 (12 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.5 kg (admission): 75 kg
             Total In:
                                                                  1,617 mL
                                                                    619 mL
   PO:
                                                                    180 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  1,237 mL
                                                                    499 mL
   Blood products:
   Total out:
                                                                  2,515 mL
                                                                    365 mL
   Urine:
                                                                  2,515 mL
                                                                    365 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -898 mL
                                                                    254 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 610 (495 - 610) mL
   PS : 8 cmH2O
   RR (Set): 16
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 35%
   PIP: 17 cmH2O
   Plateau: 11 cmH2O
   SpO2: 97%
   ABG: 7.43/45/121/35/5
   Ve: 11.7 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: 2+ peripheral edema bilaterally
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   107 K/uL
   10.0 g/dL
   112 mg/dL
   1.1 mg/dL
   35 mEq/L
   3.6 mEq/L
   67 mg/dL
   106 mEq/L
   147 mEq/L
   29.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2181-3-1**]  01:37 AM
                             [**2181-3-1**]  07:02 AM
                             [**2181-3-1**]  07:08 AM
                             [**2181-3-1**]  01:17 PM
                             [**2181-3-1**]  04:40 PM
                             [**2181-3-1**]  06:36 PM
                             [**2181-3-1**]  06:40 PM
                             [**2181-3-2**]  03:07 AM
   WBC
   13.7
   12.9
   12.1
   Hct
   29.3
   31.2
   29.9
   Plt
   110
   102
   107
   Cr
   1.1
   1.1
   1.1
   TropT
   0.14
   TCO2
   33
   36
   33
   31
   31
   Glucose
   68
   175
   112
   Other labs: PT / PTT / INR:13.7/33.4/1.2, CK / CKMB /
   Troponin-T:83//0.14, ALT / AST:66/15, Alk Phos / T Bili:49/0.9,
   Differential-Neuts:93.2 %, Lymph:4.9 %, Mono:1.3 %, Eos:0.6 %, LDH:302
   IU/L, Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   68F with known aortic stenosis, COPD, recently treated pneumonia with
   dyspnea, fatigue and severe AS who developed acute SOB and hypoxia, now
   s/p intubation.
   .
   # Respiratory failure now resolved: Patient became acutely SOB on the
   floor.  Differential includes CHF, COPD, infection, PE, pulmonary
   hemorrhage (given bloody secretions from ETT).  Was hypertensive on
   floor and has severe AS so ? flash pulmonary edema in setting of
   diastolic dysfunction.  COPD likely contributing as well.  PE possible
   given recent prolonged hospitalization, however was on heparin ggt so
   less likely.  Completed course of antibiotics for PNA, has been
   afebrile.  CXR now improved with positive pressure. Patient was
   extubated [**2181-3-1**] intiially on CPAP and then with additional diuresis
   able to transition to nasal cannula.
   - Wean FiO2 as tolerated with goal O2 sat >92%
   - Cont. lasix for goal I/O -500cc, give 40 IV lasix yesterday
   - Cont. nebs
   - Holding heparin in setting of gross blood from ETT
   - Serial Hct, consider bronchscopy if dropping or bloody secretions
   worsen.
   .
   #. Aortic stenosis: Moderate to severe as noted by TTE. Likely source
   for patient's progressive weakness, fatigue, shortness of breath, and
   lower extremity edema. Patient being evaluated by CT surgery for
   possible AVR. Will likely need cardiac [**Last Name (LF) 5731**], [**First Name3 (LF) **] need to get
   patient on the board as soon as possible for cardiac [**First Name3 (LF) 5731**].
   Panorex ordered. Called dental consult yesterday.
   - Continue to hold nitrates as patient is preload dependent
   - ACE inhibitor may be considered once renal function improves as it
   has good afterload reducing effect
   - CT surgery following, appreciate their recs
   .
   # Hypertension
 patient hypertensive which may have contributed to
   acutely worsening heart failure and possibly flash pulmonary edema.
   Patient maintained on beta blocker and CCB as outpatient.  Increased BB
   and continued CCB at current dose. Started patient on hydral IV with
   holding parameters for low blood pressure to keep blood pressure goal
   140-160 systolic in the setting of severe aortic stenosis and preload
   dependence. Started ACE inhibitor yesterday.
   -          Cont BB, CCB, ACEi
   -   hydral with holding parameters for SBP < 140 (goal SBP 140-160 in
   the setting of aortic stenosis and preload dependence).
   #. Coronaries:  Had non-obstructive coronary disease on cath in [**2178**].
   Troponins elevated here to 0.14 in the setting of renal failure.
   Differential includes demand from pumping against AS and ACS. Both
   troponins and CKs flat so do not suspect acute ischemia. EKG with
   diffuse TWI, worsened in setting of respiratory distress.  Patient
   denied CP prior to intubation.
   - Continue ASA, BB, statin
   - Monitor on telemetry
   .
   #. Atrial fibrillation: Unclear if patient has had this in the past.
   Currently back in NSR.  [**Month (only) 51**] be due to acute illness - recent pneumonia,
   decompensated heart failure. Also hyperthyroid which could induce
   afib.  CHADS score 3. Was on heparin gtt on the floor. Currently rate
   controlled
   - Continue to monitor on telemetry
   - Holding heparin gtt in setting of bloody secretions, will eventually
   need to be started on coumadin
   - Cont. BB, verapamil  uptitrate as tolerated
   .
   #. DM type II: Diet controlled at home but elevated blood sugars.
   Started on [**Month (only) 3226**].
   - Cont. [**Last Name (LF) 3226**], [**First Name3 (LF) **] uptirate as needed.
   - Cont. SSI
   .
   #. Hypercholesterolemia - Cholesterol panel suboptimal. Total
   cholesterol>200 with LDL>130. Target LDL<100. Of note, patient reports
   recently being taken off of lovastatin secondary to myalgias.
   - increase simvastatin to 80 mg PO daily, check LFTS
   .
   #. Thyrotoxicosis: TSH low (0.1).  T3 48 and free T4 1.2 which is WNL.
   - Continue methimazole per home regimen
   .
   #. ARF now resolved: Unknown baseline, however Cr at OSH was 1.3 now
   improved to 1.1. Suspect that patient with some chronic baseline renal
   insufficiency. Will need to balance diuresis with maintaining
   appropriate blood pressures and not worsening hypernatremia or renal
   failure.  Diuresis may help forward flow, increasing GFR and thus
   improving kideny function.
   - Cont. to follow
   .
   #. Anemia: In [**2178**], hematocrit was in the mid-30s. Normocytic anemia
   currently. Hct stable currently. Admission anemia labs are tibc 220
   (low), b12 elevated, folate normal, ferritin 440 (elevated),
   transferrin 160 (low), iron 58 (normal). Suspect component of anemic of
   chronic disease.
   - Guiac stools
   - Cont. to trend
   - transfuse for Hct<27
   - active type and screen
   .
   #. FEN/GI: Hypernatremia
   -          Replete lytes prn
   -          Cont diuresis with free water repletion slowly for free
   water deficit
   .
   #. Ppx:
   - Heparin SC TID
   - Bowel regimen
   - PPI
   .
   #. CODE STATUS: FULL CODE, confirmed with patient . Though daughter
   says that mother would NOT like central lines to be placed.
   .
   #. CONTACT: [**First Name8 (NamePattern2) 1984**] [**Known lastname 765**] (daughter), ([**Telephone/Fax (1) 5707**] (h), ([**Telephone/Fax (1) 5708**](c)
   .
   # Access: R PICC, patient agreed to central line if needed
   .
   # Dispo: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2181-3-1**] 12:52 AM
   Arterial Line - [**2181-3-1**] 12:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2181-03-03 06:06:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - dental cleared Pt for surgery
   - Went to cath in the PM. The coronaries were clean. Ao area was .89,
   but gradient was only 16
   - Discontinued prednisone
   - Holding off anticoagulation for now as will likely go to surgery
   early next week and low risk of thrombosis in a 4 day period
   - Post cath check at 6am with bruit in groin. No pain, hematoma. Pulses
   + by doppler. VSS. US ordered.
 CARDIAC CATH - At [**2181-3-2**] 05:45 PM
 ARTERIAL LINE - START [**2181-3-2**] 09:14 PM
 ARTERIAL LINE - STOP [**2181-3-2**] 10:48 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-3-2**] 09:00 AM
   Omeprazole (Prilosec) - [**2181-3-2**] 09:12 AM
   Heparin Sodium (Prophylaxis) - [**2181-3-2**] 02:38 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient states she is feeling very weak, no chest
   pain, no shortness of breath
   Flowsheet Data as of  [**2181-3-3**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 64 (60 - 77) bpm
   BP: 131/23(53) {131/23(53) - 158/48(84)} mmHg
   RR: 15 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.5 kg (admission): 75 kg
             Total In:
                                                                  2,242 mL
                                                                    483 mL
   PO:
                                                                    390 mL
             TF:
   IVF:
                                                                  1,852 mL
                                                                    483 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    255 mL
   Urine:
                                                                  1,710 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    532 mL
                                                                    228 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.47/44/63/33/7
   Physical Examination
   GEN: NAD. A&O
   HEENT: conjunctiva pale, PERRL
   CV: RRR; III/VI holosystolic murmur LUSB with radiation to carotids;
   diminised S1, blunted S2
   PULM: Rhonchorous BS throughout, some wheezing
   ABD: Hypoactive bowel sounds; soft, nontender, not distended
   EXT: 2+ pitting edema to knees bilaterally; radial, DP pulses 2+. R
   groin site: no hematoma or pain. + bruit.
   Labs / Radiology
   107 K/uL
   10.0 g/dL
   122 mg/dL
   0.9 mg/dL
   33 mEq/L
   3.6 mEq/L
   56 mg/dL
   105 mEq/L
   145 mEq/L
   29.9 %
   12.1 K/uL
        [image002.jpg]
                             [**2181-3-1**]  01:37 AM
                             [**2181-3-1**]  07:02 AM
                             [**2181-3-1**]  07:08 AM
                             [**2181-3-1**]  01:17 PM
                             [**2181-3-1**]  04:40 PM
                             [**2181-3-1**]  06:36 PM
                             [**2181-3-1**]  06:40 PM
                             [**2181-3-2**]  03:07 AM
                             [**2181-3-2**]  07:39 PM
                             [**2181-3-2**]  10:54 PM
   WBC
   13.7
   12.9
   12.1
   Hct
   29.3
   31.2
   29.9
   Plt
   110
   102
   107
   Cr
   1.1
   1.1
   1.1
   0.9
   TropT
   0.14
   TCO2
   33
   36
   33
   31
   31
   33
   Glucose
   68
   175
   112
   122
   Other labs: PT / PTT / INR:13.7/33.4/1.2, CK / CKMB /
   Troponin-T:83//0.14, ALT / AST:66/15, Alk Phos / T Bili:49/0.9,
   Differential-Neuts:93.2 %, Lymph:4.9 %, Mono:1.3 %, Eos:0.6 %, LDH:302
   IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   68F with known aortic stenosis, COPD, recently treated pneumonia with
   dyspnea, fatigue and severe AS who developed acute SOB and hypoxia, now
   s/p intubation.
   .
   # Respiratory failure now resolved: Likely CHF, s/p extubation after 24
   hours and 3 liter diuresis, and transiently required CPAP.  Also had
   markedly bloody secretions, while intubated, possibly related to OP
   trauma from ET tube.  Completed course of antibiotics for PNA at OSH,
   has been afebrile.  CXR now improved after diuresis and patient now
   weaned to nasal cannula.
   - wean oxygen as tolerated as continue diuresis
   - goal I/O is -500  to -1 Liter per day which was not met yesterday
   secondary to post catherization hydration, 40 IV lasix now and then
   check I/O later
   - Cont. nebs
   - Holding heparin in setting of gross blood from ETT, can consider
   restarting today
   .
   #. Aortic stenosis: Moderate to severe on TTE with heart failure
   symptoms.  Patient being evaluated by CT surgery for possible AVR.
   Patient got cardiac catherization yesterday which demonstrated clean
   coronaries, aortic area of 0.89 cm2 with gradient of only 15 however
   here C.O is low.  Apparently also with significant aortic insufficiency
   based on wide pulse pressure. Panorex complete. Cleared by dental for
   surgery.
   - Continue to hold nitrates as patient is preload dependent
   - ACE inhibitor restarted
   - f/u surgery recs, consider TEE as needed to assess valve area
   .
   # Hypertension
 [**Month (only) 51**] have contributed to CHF, increased BB and
   continued CCB at outpatient dose and PRN hydralazine
   - Cont BB, CCB, ACEi
   - hydral with holding parameters for SBP < 140 (goal SBP 140-160 in the
   setting of aortic stenosis and preload dependence).
   #. Coronaries:  Had non-obstructive coronary disease on cath in [**2178**].
   Troponins elevated here to 0.14 with normal CKs, so elevation secondary
   to ARF and CHF most likely.  Repeat cardiac catherization here
   demonstrates no evidence of coronary artery disease.  Patient is s/p
   catherization now with bruit at groin site.
   - Continue ASA, BB, statin
   - Monitor on telemetry
   - follow up groin ultrasound
   .
   #. Atrial fibrillation: Unclear if patient has had this in the past.
   Currently back in NSR. Precipitated by CHF.  Was on heparin gtt on the
   floor, will need warfarin on discharge for longterm stroke prevention
   but would hold off on starting now in the setting of possible future
   surgery.
   - Continue to monitor on telemetry
   - Holding heparin gtt in setting of bloody secretions
   - Cont. BB, CCB at current dose appears to be well rate controlled
   .
   #. DM type II: Diet controlled at home but elevated blood sugars.
   Started on [**Year (4 digits) 3226**].
   - Cont. [**Last Name (LF) 3226**], [**First Name3 (LF) **] uptirate as needed.
   - Cont. SSI
   .
   #. Hypercholesterolemia - Cholesterol panel suboptimal. Total
   cholesterol>200 with LDL>130. Target LDL<100. Of note, patient reports
   recently being taken off of lovastatin secondary to myalgias.
   Admission LFTs mildly elevated likely in the setting of passive
   congestion which have been improving
   -          increase simvastatin to 80 mg PO daily
   -          trend LFTs
   .
   #. Thyrotoxicosis: TSH low (0.1).  T3 48 and free T4 1.2 which is WNL.
   - Continue methimazole per home regimen.
   .
   #. ARF now resolved: Unknown baseline, however Cr at OSH was 1.3 now
   improved to 0.9 which is patient
s baseline. Suspect component of heart
   failure with poor forward flow contributed as patient improved with
   diuresis.
   -          Cont. to follow
   -          Renally dose medications as needed
   -          Post catherization hydration
   .
   #. Anemia: In [**2178**], hematocrit was in the mid-30s. Normocytic anemia
   currently. Hct stable currently. Admission anemia labs are tibc 220
   (low), b12 elevated, folate normal, ferritin 440 (elevated),
   transferrin 160 (low), iron 58 (normal). Suspect component of anemic of
   chronic disease.
   - Guiac all stools
   - Cont. to trend
   - transfuse for Hct<27
   - active type and screen
   .
   #. FEN/GI: Hypernatremia now resolved: suspect component of diuresis
   improved with some free water repletion in the setting of active
   diuresis with lasix.
   -          Replete lytes prn
   -          Consider free water bolus as needed to maintain sodium
   balance
   .
   #. Ppx:
   - Heparin SC TID
   - Bowel regimen
   - PPI
   - coumadin after surgery
   .
   #. CODE STATUS: FULL CODE
   .
   #. CONTACT: [**First Name8 (NamePattern2) 1984**] [**Known lastname 765**] (daughter), ([**Telephone/Fax (1) 5707**] (h), ([**Telephone/Fax (1) 5708**](c)
   .
   # Access: R  power PICC (placed at OSH prior to transfer), patient
   agreed to central line if needed
   .
   # Dispo: Call back out to [**Hospital1 1896**] today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2181-3-1**] 12:52 AM
   Arterial Line - [**2181-3-1**] 12:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2181-03-03 09:51:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint:
   24 Hour Events:
   - dental cleared Pt for surgery
   - Went to cath in the PM. The coronaries were clean. Ao area was .89,
   but gradient was only 16
   - Discontinued prednisone
   - Holding off anticoagulation for now as will likely go to surgery
   early next week and low risk of thrombosis in a 4 day period
   - Post cath check at 6am with bruit in groin. No pain, hematoma. Pulses
   + by doppler. VSS. US ordered.
 CARDIAC CATH - At [**2181-3-2**] 05:45 PM
 ARTERIAL LINE - START [**2181-3-2**] 09:14 PM
 ARTERIAL LINE - STOP [**2181-3-2**] 10:48 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2181-3-2**] 09:00 AM
   Omeprazole (Prilosec) - [**2181-3-2**] 09:12 AM
   Heparin Sodium (Prophylaxis) - [**2181-3-2**] 02:38 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: patient states she is feeling very weak, no chest
   pain, no shortness of breath
   Flowsheet Data as of  [**2181-3-3**] 05:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 64 (60 - 77) bpm
   BP: 131/23(53) {131/23(53) - 158/48(84)} mmHg
   RR: 15 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.5 kg (admission): 75 kg
             Total In:
                                                                  2,242 mL
                                                                    483 mL
   PO:
                                                                    390 mL
             TF:
   IVF:
                                                                  1,852 mL
                                                                    483 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    255 mL
   Urine:
                                                                  1,710 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    532 mL
                                                                    228 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.47/44/63/33/7
   Physical Examination
   GEN: NAD. A&O
   HEENT: conjunctiva pale, PERRL
   CV: RRR; III/VI holosystolic murmur LUSB with radiation to carotids;
   diminised S1, blunted S2
   PULM: Rhonchorous BS throughout, some wheezing
   ABD: Hypoactive bowel sounds; soft, nontender, not distended
   EXT: 2+ pitting edema to knees bilaterally; radial, DP pulses 2+. R
   groin site: no hematoma or pain. + bruit.
   Labs / Radiology
   104 K/uL
   10.0 g/dL
   97 mg/dL
   0.8 mg/dL
   37 mEq/L
   3.6 mEq/L
   51 mg/dL
   104 mEq/L
   148 mEq/L
   27.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2181-3-1**]  01:37 AM
                             [**2181-3-1**]  07:02 AM
                             [**2181-3-1**]  07:08 AM
                             [**2181-3-1**]  01:17 PM
                             [**2181-3-1**]  04:40 PM
                             [**2181-3-1**]  06:36 PM
                             [**2181-3-1**]  06:40 PM
                             [**2181-3-2**]  03:07 AM
                             [**2181-3-2**]  07:39 PM
                             [**2181-3-2**]  10:54 PM
   WBC
   13.7
   12.9
   12.1
   Hct
   29.3
   31.2
   29.9
   Plt
   110
   102
   107
   Cr
   1.1
   1.1
   1.1
   0.9
   TropT
   0.14
   TCO2
   33
   36
   33
   31
   31
   33
   Glucose
   68
   175
   112
   122
   Other labs: PT / PTT / INR:13.7/33.4/1.2, CK / CKMB /
   Troponin-T:83//0.14, ALT / AST:66/15, Alk Phos / T Bili:49/0.9,
   Differential-Neuts:93.2 %, Lymph:4.9 %, Mono:1.3 %, Eos:0.6 %, LDH:302
   IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   68F with known aortic stenosis, COPD, recently treated pneumonia with
   dyspnea, fatigue and severe AS who developed hypoxic respiratory
   failure, requiring intubation, now extubated.
   .
   # Respiratory failure now resolved: Likely CHF, s/p extubation after 24
   hours and 3 liter diuresis, and transiently required CPAP.  Also had
   markedly bloody secretions while intubated, possibly related to OP
   trauma from ET tube.  Completed course of antibiotics for PNA at OSH,
   has been afebrile.  CXR now improved after diuresis and patient now
   weaned to nasal cannula.
   - wean oxygen as tolerated as continue diuresis
   - goal I/O is -500  to -1 Liter per day which was not met yesterday
   secondary to post catherization hydration, 40 IV lasix now and then
   check I/O later
   - restart home inhalers
   - Holding heparin in setting of gross blood from ETT
   .
   #. Aortic stenosis: Moderate to severe on TTE with heart failure
   symptoms.  Patient being evaluated by CT surgery for possible AVR.
   Patient got cardiac catherization yesterday which demonstrated clean
   coronaries, aortic area of 0.89 cm2 with gradient of only 15  which is
   a discrepancy from TTE.  Apparently also with significant aortic
   insufficiency based on wide pulse pressure. Panorex complete. Cleared
   by dental for surgery.
   - Continue to hold nitrates as patient is preload dependent
   - ACE inhibitor restarted
   - Repeat TTE
   - f/u surgery recs
   .
   # Hypertension
 [**Month (only) 51**] have contributed to CHF, increased BB and
   continued CCB at outpatient dose and PRN hydralazine
   - Cont BB, CCB, ACEi
   - hydral with holding parameters for SBP < 140 (goal SBP 140-160 in the
   setting of aortic stenosis and preload dependence).
   #. Coronaries:  Had non-obstructive coronary disease on cath in [**2178**].
   Troponins elevated here to 0.14 with normal CKs, so elevation secondary
   to ARF and CHF most likely.  Repeat cardiac catherization here
   demonstrates no evidence of coronary artery disease.  Patient is s/p
   catherization now with bruit at groin site.
   - Continue ASA, BB, statin
   - Monitor on telemetry
   - follow up groin ultrasound
   .
   #. Atrial fibrillation: Unclear if patient has had this in the past.
   Currently back in NSR. Precipitated by CHF.  Was on heparin gtt on the
   floor, will need warfarin on discharge for longterm stroke prevention
   but would hold off on starting now in the setting of possible future
   surgery.
   - Continue to monitor on telemetry
   - Holding heparin gtt in setting of bloody secretions
   - Cont. BB, CCB at current dose appears to be well rate controlled
   .
   #. DM type II: Diet controlled at home but elevated blood sugars.
   Started on [**Year (4 digits) 3226**].
   - Cont. [**Last Name (LF) 3226**], [**First Name3 (LF) **] uptirate as needed.
   - Cont. SSI
   .
   #. Hypercholesterolemia - Cholesterol panel suboptimal. Total
   cholesterol>200 with LDL>130. Target LDL<100. Of note, patient reports
   recently being taken off of lovastatin secondary to myalgias.
   Admission LFTs mildly elevated likely in the setting of passive
   congestion which have been improving
   -          increase simvastatin to 80 mg PO daily
   -          trend LFTs
   .
   #. Thyrotoxicosis: TSH low (0.1).  T3 48 and free T4 1.2 which is WNL.
   - Continue methimazole per home regimen.
   .
   #. ARF now resolved: Unknown baseline, however Cr at OSH was 1.3 now
   improved to 0.9 which is patient
s baseline. Suspect component of heart
   failure with poor forward flow contributed as patient improved with
   diuresis.
   -          Cont. to follow
   -          Renally dose medications as needed
   -          Post catherization hydration
   .
   #. Anemia: In [**2178**], hematocrit was in the mid-30s. Normocytic anemia
   currently. Hct stable currently. Admission anemia labs are tibc 220
   (low), b12 elevated, folate normal, ferritin 440 (elevated),
   transferrin 160 (low), iron 58 (normal). Suspect component of anemic of
   chronic disease.
   - Guiac all stools
   - Cont. to trend
   - transfuse for Hct<27
   - active type and screen
   .
   #. FEN/GI: Hypernatremia : suspect component of diuresis with lasix.
   Encourage PO
   -          Replete lytes prn
   -          Consider free water bolus as needed to maintain sodium
   balance
   .
   #. Ppx:
   - Heparin SC TID
   - Bowel regimen
   - PPI
   - coumadin after surgery
   .
   #. CODE STATUS: FULL CODE
   .
   #. CONTACT: [**First Name8 (NamePattern2) 1984**] [**Known lastname 765**] (daughter), ([**Telephone/Fax (1) 5707**] (h), ([**Telephone/Fax (1) 5708**](c)
   .
   # Access: R  power PICC (placed at OSH prior to transfer), patient
   agreed to central line if needed
   .
   # Dispo: Call back out to [**Hospital1 1896**] today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2181-3-1**] 12:52 AM
   Arterial Line - [**2181-3-1**] 12:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Cardiac cath lab hemodynamics reviewed in detail.  Mean gradient less
   than noted by echo and may reflect changes in transvalvular flow after
   treatment.  [**Location (un) 342**] only slightly different but if there is much AI even
   the 0.89 may be overestimated.  It is important to determine relative
   contributions of fixed AV obstruction, AI and diastolic dysfunction
   related to severe hypertension.  Will plan to repeat echo to reassess
   gradient and AI.  Continue other medical therapy.
   Above discussed extensively with patient.
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 2075**], MD
   on:[**2181-3-3**] 10:54 ------